US07799822B2
To a 0° C. solution of (R)-2-(6-chloro-3,4-dihydroquinolin-1 (2H)-yl)-propanoic acid (16.91 g, 57 mmol) in a (1:1) mixture of methylene dichloride and DMF (150 mL), was added HATU (21.7 g, 57 mmol). The reaction mixture was stirred at this temperature for 10 minutes. To this was added, 1-phenylpiperazine (8.7 mL, 57 mmol), followed by addition of sodium bicarbonate (4.79 g, 57 mmol). Upon completion of addition, the mixture was stirred at 0° C. for 4 hours. The reaction mixture was diluted with 250 mL of methylene chloride and washed with water (1500 mL) and 1M HCl solution (2×250 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated. Purification via silica gel chromatography using 20-50% ethyl acetate in hexane gave (R)-2-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-1-(4-phenylpiperizin-1-yl)propan-1-one as a white solid (11.84 g, 54%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=384.3; tR=3.59 min.

reactant | (R)-2-(6-chloro-3,4-dihydroquinolin-1 (2H)-yl)-propanoic acid | 57 mmol, 16.91 g | ClC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)O)C | C12H14ClNO2
reactant | HATU | 57 mmol, 21.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-phenylpiperazine | 57 mmol, 8.7 mL | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | sodium bicarbonate | 57 mmol, 4.79 g | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (R)-2-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-1-(4-phenylpiperizin-1-yl)propan-1-one | 11.84 g, 54% | ClC=1C=C2CCCN(C2=CC1)[C@@H](C(=O)N1CCN(CC1)C1=CC=CC=C1)C | C22H26ClN3O
